US05200110
310 cm3 of ethanol saturated with ammonia was added to 83 g (0.41 mol) of 4-fluorobenzimidate hydrogen chloride and stirred at room temperature for one day and night. Approximately half of the ethanol was distilled off and the residue was recrystallized to yield 70 g (0.40 mol) of 4-fluorobenzamidine hydrogen chloride.

reactant | ammonia | N | H3N
reactant | 4-fluorobenzimidate hydrogen chloride | 0.41 mol, 83 g | Cl.FC1=CC=C(C(O)=N)C=C1
solvent | ethanol | 310 cm3 | C(C)O | C2H6O
product | 4-fluorobenzamidine hydrogen chloride | 0.40 mol, 70 g | Cl.FC1=CC=C(C(=N)N)C=C1 | InChI=1S/C7H7FN2.ClH/c8-6-3-1-5(2-4-6)7(9)10;/h1-4H,(H3,9,10);1H
